US07915250B2
Methyl 4-(2-fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylate (84.9 mg, 0.211 mmol) was dissolved in tetrahydrofuran (5 mL), methanol (2.5 mL) and water (2.5 mL). Aqueous 2 M lithium hydroxide (200 μL) was added at room temperature. After 10 minutes, the reaction mixture was heated to 50° C. for 30 minutes and continued to stir at room temperature for 16 hours at which time the solvents were evaporated. The residue was made acidic with 2 M aqueous hydrochloric acid to pH 2 and extracted with ethyl acetate. The organic layer separated, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to provide 4-(2-fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid (54.0 mg, 66% yield). MS (EI) for C12H9N3O3FI: 390 (MH+).

reactant | Methyl 4-(2-fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylate | 0.211 mmol, 84.9 mg | FC1=C(C=CC(=C1)I)NC=1C(=NN(C(C1)=O)C)C(=O)OC | C13H11FIN3O3
reactant | methanol | 2.5 mL | CO | CH4O
reactant | water | 2.5 mL | O | H2O
reactant | lithium hydroxide | 2 M, 200 μL | [OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(2-fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid | 54.0 mg, 66% yield | FC1=C(C=CC(=C1)I)NC=1C(=NN(C(C1)=O)C)C(=O)O | C12H9FIN3O3
